### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Basic): add InnerProductSpace.induced

### PR DESCRIPTION
**Pull request by TJHeeringa**
---

There are many instances with a `.induced`. The `InnerProductSpace` didn't have one yet. 

AI usage:
I gave Claude `NormedAddCommGroup.induced` and ask it to produce the version with `f` injective. The few lines I kept from its suggestion were rewritten during the code review.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 1]
```diff
@@ -878,6 +878,44 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
...
 
+section induced
+
+variable {G H : Type*} [AddCommGroup G] [Module 𝕜 G] [FunLike H G E]
+
+/-- A linear map from a `Module` to an `InnerProductSpace` induces an `SemiInnerProductSpace`
+structure on the domain using the `SeminormedAddCommGroup.induced` norm. -/
+abbrev InnerProductSpace.induced [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+    [LinearMapClass H 𝕜 G E] (f : H) :
+    @InnerProductSpace 𝕜 G _ (SeminormedAddCommGroup.induced G E f) :=
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]:
```suggestion
    letI := SeminormedAddCommGroup.induced G E f
    InnerProductSpace 𝕜 G :=
```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 2]
```diff
@@ -878,6 +878,44 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
...
+  letI := SeminormedAddCommGroup.induced G E f
+  letI := NormedSpace.induced 𝕜 G E f
+  { inner     := fun x y => @inner 𝕜 E _ (f x) (f y)
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]: please fix the indentation everywhere else and move the variables before `:=`
```suggestion
  { inner x y := inner 𝕜 (f x) (f y)
```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 3]
```diff
@@ -878,6 +878,44 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
...
+      simpa only [map_add] using inner_add_left (f x) (f y) (f z)
+    smul_left := fun x y r => by
+      simpa only [map_smul] using inner_smul_left (f x) (f y) r
+    norm_sq_eq_re_inner := fun x => norm_sq_eq_re_inner (𝕜 := 𝕜) (f x)
+    conj_inner_symm := fun x y => inner_conj_symm (f x) (f y)
+  }
+
+/-- An injective linear map from a `Module` to an `InnerProductSpace` induces an `InnerProductSpace`
+structure on the domain using the `NormedAddCommGroup.induced` norm. -/
+abbrev InnerProductSpace.induced' [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]: I don't think this is necessary. If you need an induced inner product space with an induced `NormedAddCommGroup` then I think you can just do `letI := NormedAddCommGroup.induced G E f hf; letI := InnerProductSpace.induced f`?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean (hunk 1 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean]: Why do we prefer here the `letI` notation, whilst the `NormedSpace.induced` uses the @ notation? Both create a local instance of `SeminormedAddCommGroup.induced`. 

```lean
/-- A linear map from a `Module` to a `NormedSpace` induces a `NormedSpace` structure on the
domain, using the `SeminormedAddCommGroup.induced` norm.

See note [reducible non-instances] -/
abbrev NormedSpace.induced {F : Type*} (𝕜 E G : Type*) [NormedField 𝕜] [AddCommGroup E] [Module 𝕜 E]
    [SeminormedAddCommGroup G] [NormedSpace 𝕜 G] [FunLike F E G] [LinearMapClass F 𝕜 E G] (f : F) :
    @NormedSpace 𝕜 E _ (SeminormedAddCommGroup.induced E G f) :=
  letI := SeminormedAddCommGroup.induced E G f
  { norm_smul_le a b := by simpa only [← map_smul f a b] using norm_smul_le a (f b) }
  ```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 4]
```diff
@@ -878,6 +878,40 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
...
+
+/-- A linear map from a `Module` to an `InnerProductSpace` induces an `SemiInnerProductSpace`
+structure on the domain using the `SeminormedAddCommGroup.induced` norm. -/
+abbrev InnerProductSpace.induced [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+    [LinearMapClass H 𝕜 G E] (f : H) :
+    @InnerProductSpace 𝕜 G _ (SeminormedAddCommGroup.induced G E f) :=
+  letI := SeminormedAddCommGroup.induced G E f
+  letI := NormedSpace.induced 𝕜 G E f
+  { inner x y := inner 𝕜 (f x) (f y)
+    add_left x y z := by simpa only [map_add] using inner_add_left (f x) (f y) (f z)
```
Comment (TJHeeringa) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]: This is also provable using `by rw [map_add, inner_add_left]`. Shall I change it to that?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean (hunk 3 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean]: I think you are right. I'll remove it.

Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean]: Currently, the code is inside a section. With this second version removed, it is just one instance definition. Shall I move the section variables inside the `abbrev`?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean (hunk 1 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean]: I think we try to avoid `@` where possible. `NormedSpace.induced` is probably written a while ago?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean (hunk 4 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean]: Sure

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 5]
```diff
@@ -878,6 +878,26 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
 
 end Norm
 
+section induced
+
+variable {G H : Type*} [AddCommGroup G] [Module 𝕜 G] [FunLike H G E]
+
+/-- A linear map from a `Module` to an `InnerProductSpace` induces an `SemiInnerProductSpace`
+structure on the domain using the `SeminormedAddCommGroup.induced` norm. -/
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]:
```suggestion
structure on the domain using the `SeminormedAddCommGroup.induced` norm.

See note [reducible non-instances]. -/
```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 6]
```diff
@@ -878,6 +878,26 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
...
+    [LinearMapClass H 𝕜 G E] (f : H) :
+    @InnerProductSpace 𝕜 G _ (SeminormedAddCommGroup.induced G E f) :=
+  letI := SeminormedAddCommGroup.induced G E f
+  letI := NormedSpace.induced 𝕜 G E f
+  { inner x y := inner 𝕜 (f x) (f y)
+    add_left x y z := by simpa only [map_add] using inner_add_left (f x) (f y) (f z)
+    smul_left x y r := by simpa only [map_smul] using inner_smul_left (f x) (f y) r
+    norm_sq_eq_re_inner x := norm_sq_eq_re_inner (f x)
+    conj_inner_symm x y := inner_conj_symm (f x) (f y)
+  }
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]:
```suggestion
    conj_inner_symm x y := inner_conj_symm (f x) (f y) }
```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 7]
```diff
@@ -878,6 +878,26 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
...
+/-- A linear map from a `Module` to an `InnerProductSpace` induces an `SemiInnerProductSpace`
+structure on the domain using the `SeminormedAddCommGroup.induced` norm. -/
+abbrev InnerProductSpace.induced [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+    [LinearMapClass H 𝕜 G E] (f : H) :
+    @InnerProductSpace 𝕜 G _ (SeminormedAddCommGroup.induced G E f) :=
+  letI := SeminormedAddCommGroup.induced G E f
+  letI := NormedSpace.induced 𝕜 G E f
+  { inner x y := inner 𝕜 (f x) (f y)
+    add_left x y z := by simpa only [map_add] using inner_add_left (f x) (f y) (f z)
+    smul_left x y r := by simpa only [map_smul] using inner_smul_left (f x) (f y) r
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]: Guessing this can also be changed to `rw [map_smul, inner_smul_left]`?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 8]
```diff
@@ -878,6 +878,26 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
 
 end Norm
 
+section induced
+
+variable {G H : Type*} [AddCommGroup G] [Module 𝕜 G] [FunLike H G E]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]: Just put this in the `abbrev` instead of having a `section` and `variable`. Also, can you change the `H` to `F`?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean (hunk 1 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean]: 3 years ago in commit with name "feat: port Analysis.NormedSpace.Basic". So could be a remnant of Lean 3.

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 9]
```diff
@@ -878,6 +878,21 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
 
 end Norm
 
+/-- A linear map from a `Module` to an `InnerProductSpace` induces an `SemiInnerProductSpace`
+structure on the domain using the `SeminormedAddCommGroup.induced` norm.
+
+See note [reducible non-instances]. -/
+abbrev InnerProductSpace.induced {F G : Type*} [AddCommGroup G] [Module 𝕜 G] [FunLike F G E]
+    [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E] [LinearMapClass F 𝕜 G E] (f : F) :
+    letI := SeminormedAddCommGroup.induced G E f; InnerProductSpace 𝕜 G :=
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]: looks better and unambiguous this way
```suggestion
    letI := SeminormedAddCommGroup.induced G E f
    InnerProductSpace 𝕜 G :=
```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 10]
```diff
@@ -878,6 +878,22 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
 
 end Norm
 
+/-- A linear map from a `Module` to an `InnerProductSpace` induces an `SemiInnerProductSpace`
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]: You can either say "induces a(n) (semi-)inner product space" or "induces an `InnerProductSpace`" (`SemiInnerProductSpace` isn't a def)

**Review by themathqueen — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by themathqueen** [comment]
Oh, please also update the PR description as it is outdated now.

**Comment by themathqueen** [comment]
Oh, I forgot to ask you to do something. In [Submodule.innerProductSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Subspace.html#Submodule.innerProductSpace), can you change the proof to `.induced W.subtype`?

Sorry for removing and adding back the labels, I was rethinking whether we needed any API for this definition, but the other `.induced` definitions don't have any, so I think we're fine?

**Comment by TJHeeringa** [comment]
> Sorry for removing and adding back the labels, I was rethinking whether we needed any API for this definition, but the other `.induced` definitions don't have any, so I think we're fine?

I have added the lemma as suggested in the review of #38869 here.

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 11]
```diff
@@ -878,6 +878,33 @@ theorem norm_add_eq_iff_real {x y : F} : ‖x + y‖ = ‖x‖ + ‖y‖ ↔ ‖
...
+  letI := SeminormedAddCommGroup.induced G E f
+  letI := NormedSpace.induced 𝕜 G E f
+  { inner x y := inner 𝕜 (f x) (f y)
+    add_left x y z := by rw [map_add, inner_add_left]
+    smul_left x y r := by rw [map_smul, inner_smul_left]
+    norm_sq_eq_re_inner x := norm_sq_eq_re_inner (f x)
+    conj_inner_symm x y := inner_conj_symm (f x) (f y) }
+
+@[simp]
+theorem inner_eq (g₁ g₂ : G) (f : G →ₗ[𝕜] E) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean]: not sure if this should be simp, also for the name, maybe something like
```suggestion
theorem inner_induced_eq (g₁ g₂ : G) (f : G →ₗ[𝕜] E) :
```

File: Mathlib/Analysis/InnerProductSpace/Subspace.lean [hunk 12]
```diff
@@ -34,12 +34,7 @@ local notation "⟪" x ", " y "⟫" => inner 𝕜 x y
 
 /-- Induced inner product on a submodule. -/
 instance Submodule.innerProductSpace (W : Submodule 𝕜 E) : InnerProductSpace 𝕜 W :=
-  { Submodule.normedSpace W with
-    inner := fun x y => ⟪(x : E), (y : E)⟫
-    conj_inner_symm := fun _ _ => inner_conj_symm _ _
-    norm_sq_eq_re_inner := fun x => norm_sq_eq_re_inner (x : E)
-    add_left := fun _ _ _ => inner_add_left _ _ _
-    smul_left := fun _ _ _ => inner_smul_left _ _ _ }
+  InnerProductSpace.induced W.subtype
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Subspace.lean]:
```suggestion
  .induced W.subtype
```

**Comment by ocfnash** [comment]
Thanks!

bors merge
